US05686622
The process is performed in a similar manner to that described in Example 1, but starting with 0.30 g of tert-butyl (2S,4S,5S)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-(2-fluorophenyl)-2-thiazolidinecarboxylate dissolved in 10 ml of tetrahydrofuran and 100 μl of 3-methylphenyl isocyanate. The crude product is purified by chromatography on silica [eluent: ethyl acetate/cyclohexane (30/70 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. 0.08 g of tert-butyl (2S,4S,5S)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-2-thiazolidinecarboxylate is thus obtained in the form of a yellow foam, Rf=0.43 [ethyl acetate/cyclohexane (40/60 by volume); 1 H NMR (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 393 K, δ in ppm): 1.52 (s, 9H: CH3 of the tert-butyl); 2.25 (s, 3H: ArCH3); 3.34 (s, 3H: COOCH3); 3.70 and 4.05 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 4.95 (d, J=7.5 Hz, 1H: H at C5 of the ring); 5.75 (s, 1H: H at C2 of the ring); 6.05 (d, J=7.5 Hz: 1H: H at C4 of the ring); 6.76 (broad d, J=7.5 Hz, 1H: aromatic H (H ortho to the CH3)); 7.09 (t, J=7.5 Hz, 1H: aromatic H (H meta to the CH3)); from 7.10 to 7.50 (mt, 5H: aromatic H); 8.00 (mt, 1H: aromatic H (H meta to the F)).

reactant | tert-butyl (2S,4S,5S)-3-(2-aminoacetyl)-5-methoxycarbonyl-4-(2-fluorophenyl)-2-thiazolidinecarboxylate | 0.30 g | NCC(=O)N1[C@@H](S[C@@H]([C@@H]1C1=C(C=CC=C1)F)C(=O)OC)C(=O)OC(C)(C)C | C18H23FN2O5S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | 3-methylphenyl isocyanate | 100 μl | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl (2S,4S,5S)-5-methoxycarbonyl-3-{2-[3-(3-methylphenyl)ureido]acetyl}-4-(2-fluorophenyl)-2-thiazolidinecarboxylate | 0.08 g | COC(=O)[C@@H]1[C@@H](N([C@@H](S1)C(=O)OC(C)(C)C)C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=C(C=CC=C1)F | C26H30FN3O6S
